US05362879
A solution of nBu4NF (7.30 g, 28 mmol) in dry THF (27.9 mL) was added to a solution of methyl α-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-4,5-di phenyl-2-oxazolepropanoate (11.90 g, 23 mmol) in dry THF (250 mL) maintained at about -78° C. under an atmosphere of N2. After about 10 minutes, the mixture was poured onto saturated NH4Cl solution and extracted with CH2C2. The combined extracts were dried over Na2SO4, concentrated and the residue chromatographed on a column of silica gel. Elution with a mixture of Et2O and hexanes (1:1) gave methyl α- (3-hydroxyphenyl)-4,5-diphenyl-2-oxazolepropanoate (4.59 g, 47%).

reactant | nBu4NF | 28 mmol, 7.30 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | methyl α-[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-4,5-di phenyl-2-oxazolepropanoate | 23 mmol, 11.90 g | CC(C)(C)[Si](OC=1C=C(C=CC1)C(C(=O)OC)CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C31H35NO4Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 27.9 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl α- (3-hydroxyphenyl)-4,5-diphenyl-2-oxazolepropanoate | 4.59 g, 47% | OC=1C=C(C=CC1)C(C(=O)OC)CC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NO4
